US09388173B2
Step 3: 6-chloro-2-methyl-2H-pyrazolo[3,4-b]pyridine
To a solution of 2,6-dichloronicotinaldehyde (600 mg, 3.41 mmol) in THF (5 mL) was added CH3NHNH2 (480 mg, 4.1 mmol) in a seal tube at 26° C. The mixture was stirred for 16 h at 120° C. until the reaction was complete. The mixture was then treated with water (20 ml) and extracted with ethyl acetate (3×20 ml) and the combined organic layers washed with brine (20 ml), dried over Na2SO4 and concentrated to get the crude material, which was purified by column chromatography to yield the desired compound as a yellow solid (380 mg, 72.4%) (420 mg, Yield 75%).

reactant | 2,6-dichloronicotinaldehyde | 3.41 mmol, 600 mg | ClC1=C(C=O)C=CC(=N1)Cl | C6H3Cl2NO
reactant | CH3NHNH2 | 4.1 mmol, 480 mg | CNN | CH6N2
reactant | water | 20 ml | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-chloro-2-methyl-2H-pyrazolo[3,4-b]pyridine | 380 mg, Yield 75% | ClC=1C=CC=2C(N1)=NN(C2)C | C7H6ClN3
